US08252833B2
{4-[4,9-Bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetic acid
Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate (0.050 g, 0.11 mmol) was dissolved in glacial acetic acid (2 ml) and 2N hydrochloric acid (2 ml) added which caused precipitation. The reaction mixture was heated to 100° C. under argon (the precipitate went back into solution) for 2 hours. The reaction mixture was cooled to room temperature and water added with stirring for 5 minutes. A solid precipitate formed which was filtered, washed with water, and collected to give the title compound as a yellow solid. The product was dried overnight in a vacuum oven (0.024 g, 0.05 mmol).

reactant | Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 0.11 mmol, 0.050 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H24FNO6
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | {4-[4,9-Bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetic acid | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)O)F)=O)OCC)C=CC=C2 | C24H20FNO6
